US04439608
2-[2-[5-(4-Nitrophenyl)furfurylamino]ethyl]pyridine Dihydrochloride
A mixture of 54 g (0.25 mole) of 5-(4-nitrophenyl)-2-furaldehyde and 30.5 g (0.25 mole) of 2-(2-aminoethyl)pyridine in 300 ml of methanol was heated under reflux for 21/2 hours. The resulting solution was cooled to 25°, and 9.5 g (0.25 mole) of sodium borohydride was added in portions over 1 hour at 25°-30°. The solution was heated under reflux for 15 min, and the solvent was removed on a rotary evaporator. The residual solid was partitioned between water and chloroform. The chloroform layer (400 ml) was separated, dried over MgSO4, and concentrated on a rotary evaporator to give 81 g of a reddish brown, oily residue which solidified on standing. The residual solid was dissolved in 400 ml of absolute methanol and treated with 200 ml of absolute methanol saturated with hydrogen chloride with cooling in ice. The yellow solid which was deposited was collected by filtration using a rubber dam and dried in a vacuum oven at oil pump pressure at 100° C. for 8 hr to give 86 g (87%) of product. Two additional recrystallizations from absolute methanol gave an analytical sample, m.p. 173°-177°.

reactant | 5-(4-nitrophenyl)-2-furaldehyde | 0.25 mole, 54 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C=O | C11H7NO4
reactant | 2-(2-aminoethyl)pyridine | 0.25 mole, 30.5 g | NCCC1=NC=CC=C1 | C7H10N2
reactant | sodium borohydride | 0.25 mole, 9.5 g | [BH4-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 400 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
product | 2-[2-[5-(4-Nitrophenyl)furfurylamino]ethyl]pyridine Dihydrochloride | 86 g, 87% | Cl.Cl.[N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(CNCCC2=NC=CC=C2)O1 | InChI=1S/C18H17N3O3.2ClH/c22-21(23)16-6-4-14(5-7-16)18-9-8-17(24-18)13-19-12-10-15-3-1-2-11-20-15;;/h1-9,11,19H,10,12-13H2;2*1H
